US08563717B2
Intermediate 27: Phenylmethyl 2-{2-[6-amino-2-(butyloxy)-8-(methyloxy)-9H-purin-9-yl]ethyl}-1-piperidinecarboxylate
2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate (1.346 g, 3.83 mmol) was heated with anhydrous potassium carbonate (2.118 g, 15.33 mmol) in dry DMF (17 ml) at 60° C. for 1 hour. Phenylmethyl 2-(2-bromoethyl)-1-piperidinecarboxylate (1.500 g, 4.60 mmol) was added and the reaction mixture heated at 50° C. overnight (20 hours). The reaction mixture was partitioned between water (250 ml) and ethyl acetate (150 ml). The aqueous was further extracted with 2×100 ml ethyl acetate. The combined organic layers were washed with 100 ml brine and passed through a hydrophobic frit to dry, then stripped to dryness (rotary evaporator). The residue was dissolved in DCM and loaded onto a 70 g silica cartridge and purified by chromatography using a gradient 0-100% ethyl acetate in dichloromethane+0-12% MeOH finish on a Flashmaster 2. Appropriate fractions were combined and evaporated in vacuo. The material was re-purified by chromatography on silica (70 g cartridge using a gradient of 0-100% ethyl acetate in dichloromethane over 40 mins. and subsequently a flush of 0-100% ethyl acetate in DCM+0-20% MeOH). Product fractions combined and evaporated in vacuo to give the title compound as a colourless oil (0.342 g).

reactant | 2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate | 3.83 mmol, 1.346 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 15.33 mmol, 2.118 g | C([O-])([O-])=O.[K+].[K+]
reactant | Phenylmethyl 2-(2-bromoethyl)-1-piperidinecarboxylate | 4.60 mmol, 1.500 g | BrCCC1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C15H20BrNO2
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
product | Phenylmethyl 2-{2-[6-amino-2-(butyloxy)-8-(methyloxy)-9H-purin-9-yl]ethyl}-1-piperidinecarboxylate | 0.342 g | NC1=C2N=C(N(C2=NC(=N1)OCCCC)CCC1N(CCCC1)C(=O)OCC1=CC=CC=C1)OC | C25H34N6O4
